US07037938B2
To a solution of (2R)-N-benzyl-N-[2-(4-bromophenyl)-ethyl]-2-[[tert-butyl(dimethyl)silyl]oxy]-2-(3-chlorophenyl)ethanamine (2.1 g) in tetrahydrofuran (25 ml) was added a solution of butyllithium in hexane (1.59M, 2.83 ml) dropwise at −70° C. under nitrogen and the mixture was stirred at −70° C. for 30 minutes. To the reaction mixture was added 4-[[tert-butyl(dimethyl)silyl]oxy]benzaldehyde (977 mg) at −70° C., and the mixture was stirred at −70° C. for 1 hour. The mixture was allowed to warm to room temperature and partitioned between ethyl acetate and water. The organic layer was separated, washed with saturated sodium biscarbonate solution and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=10/1) to give [4-[2-[N-benzyl-N-[(2R)-2-[[tert-butyl(dimethyl)silyl]oxy]-2-(3-chlorophenyl)ethyl]amino]ethyl]phenyl][4-[[tert-butyl(dimethyl)silyl]-oxy]phenyl]methanol (1.1 g).

reactant | (2R)-N-benzyl-N-[2-(4-bromophenyl)-ethyl]-2-[[tert-butyl(dimethyl)silyl]oxy]-2-(3-chlorophenyl)ethanamine | 2.1 g | C(C1=CC=CC=C1)N(C[C@@H](C1=CC(=CC=C1)Cl)O[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)Br | C29H37BrClNOSi
reactant | butyllithium | C(CCC)[Li]
reactant | 4-[[tert-butyl(dimethyl)silyl]oxy]benzaldehyde | 977 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=O)C=C1 | C13H20O2Si
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.59M, 2.83 ml | CCCCCC | C6H14
product | [4-[2-[N-benzyl-N-[(2R)-2-[[tert-butyl(dimethyl)silyl]oxy]-2-(3-chlorophenyl)ethyl]amino]ethyl]phenyl][4-[[tert-butyl(dimethyl)silyl]-oxy]phenyl]methanol | 1.1 g | C(C1=CC=CC=C1)N(C[C@@H](C1=CC(=CC=C1)Cl)O[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C42H58ClNO3Si2
